US05300506
A suspension of 100g (463 mmol, 1.0 equiv.) of 4-nitrobenzyl bromide and 64.2 g (509 mmol, 1.1 equiv.) of sodium sulfite in 500 mL of methanol and 500 mL of water was heated to reflux. The progress of the reaction was monitored by TLC. When the bromide was consumed, the reaction mixture was allowed to cool to room temperature. The product precipitated and was collected by filtration. It was thoroughly dried for sixteen hours at 65° C. at 0.05 mm Hg to give 100 g (90%) of sodium 4-nitrobenzyl sulfonate.

reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium sulfite | 509 mmol, 64.2 g, 1.1 equiv. | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 500 mL | CO | CH4O
solvent | water | 500 mL | O | H2O
product | sodium 4-nitrobenzyl sulfonate | 100 g, 90% | [N+](=O)([O-])C1=CC=C(CS(=O)(=O)[O-])C=C1.[Na+] | InChI=1S/C7H7NO5S.Na/c9-8(10)7-3-1-6(2-4-7)5-14(11,12)13;/h1-4H,5H2,(H,11,12,13);/q;+1/p-1
